US06815462B2
Synthesis of C7 Glutaryl Paclitaxel
875 mg of paclitaxel was dissolved in 6 ml of pyridine and 40 ml of dichloromethane. The solution was cooled at −20° C. Three hundred microliters of trichloroethylchloroformate (Troc) (at −20° C.) was added by portions of 100 microliters and the solution was kept at −20°C. for two hours. An additional 100 microliters of Troc was added and the solution was stirred at room temperature for 20 hours. The solvent was evaporated to dryness. The residue was dissolved in 10 ml of dimethylformamide with 1.36 g of glutaric anhydride and 40 mg of dimethylaminopyridine. The solution was stirred at 85° C. for 20 hours. The product was precipitated with 10 volumes of water. The white precipitate was collected on a sintered glass filter and dried. The dried product was then dissolved in 20 ml of methanol:acetic acid (9:1) and 0.5 g of zinc powder was added. The solution was stirred at room temperature for 30 minutes. Zinc was filtered and the filtrate was evaporated to a volume of about 2 ml. 70 ml of dichloromethane was added and the solution was washed twice with 30 ml of 0.01N HCl, once with 30 ml of sodium bicarbonate and once with 50 ml of water. The organic phase was dried with anhydrous sodium sulfate, filtered and evaporated to dryness. This yielded 620 mg of a C7-glutaryl paclitaxel

reactant | paclitaxel | 875 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | trichloroethylchloroformate | Three hundred microliters | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | Troc | 100 microliters | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Glutaryl Paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)OC(=O)CCCC(=O)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O)C)OC(=O)C | C52H57NO17
